US06489344B1
1 mmol of 2-{N-[2-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-4-(2,4-dichlorophenyl)pyrimidin-5-yl]carbamoyl}benzoic acid was heated to 120° C. in acetic acid for four hours and then concentrated in vacuo to obtain 2-[2-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-4-(2,4-dichlorophenyl)pyrimidin-5-yl]isoindoline-1,3-dione.

reactant | 2-{N-[2-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-4-(2,4-dichlorophenyl)pyrimidin-5-yl]carbamoyl}benzoic acid | 1 mmol | NC1=C(C=CC(=N1)NCCNC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)NC(=O)C1=C(C(=O)O)C=CC=C1)[N+](=O)[O-] | C25H20Cl2N8O5
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-[2-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-4-(2,4-dichlorophenyl)pyrimidin-5-yl]isoindoline-1,3-dione | NC1=C(C=CC(=N1)NCCNC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)N1C(C2=CC=CC=C2C1=O)=O)[N+](=O)[O-] | C25H18Cl2N8O4
